US08835419B2
To a stirred solution of (R)-ethyl 1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylate (3.1 g, 6.8 mmol) in 2:1 THF/EtOH (12 mL) was added a solution of sodium hydroxide (1.4 g, 34.1 mmol) dissolved in deionized water (4 mL). The reaction mixture was stirred at room temperature for 4 h, and the mixture was adjusted to pH-7 with aqueous 6 N hydrochloric acid. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 0-25% methanol in dichloromethane) to give (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylic acid (2.4 g, 5.6 mmol, 82%).

reactant | (R)-ethyl 1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylate | 6.8 mmol, 3.1 g | ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)OCC)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C22H25Cl3N2O2
reactant | THF EtOH | 12 mL | C1CCOC1.CCO
reactant | sodium hydroxide | 34.1 mmol, 1.4 g | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 4 mL | O | H2O
product | (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylic acid | 5.6 mmol, 2.4 g, 82% | ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)O)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C20H21Cl3N2O2
